US05470845
A. 4-Heptylbenzaldehyde
To a stirred solution of 6.60 g (30 mmol) of 4-heptylbenzoic acid (obtained from Aldrich Chemical Company (#23,064-2) and used without purification) in 50 mL of dichloromethane at room temperature under nitrogen was added 4.0 mL (45 mmol, 1.5 equivalents) of oxalyl chloride and then 0.1 mL (1.3 mmol) of DMF. The resulting vigorously bubbling solution was stirred for 1 h and then evaporated. The semi-solid residue was dissolved in 40 mL of benzene under argon and 350 mg (0.31 mmol) of tetrakis(triphenylphosphine)palladium was added. To this stirring solution at room temperature was added 11.1 mL (34 mmol) of tributyltin hydride over 20 min. The solution turns yellow and warms autogenously to 40° C. After 1 h, the reaction was treated with 100 mL of 10% aqueous potassium fluoride and stirred vigorously for 30 min. The reaction mass was filtered, the filtrate diluted with ether, washed with water, and the organic layer separated, dried (MgSO4) and evaporated onto 10 g of silica gel. Purification by flash chromatography (5×20 cm column, 3:7 dichloromethane/hexanes as elutent) gave 5.95 g, 97% yield, of title compound as a colorless oil.

reactant | 4-heptylbenzoic acid | 30 mmol, 6.60 g | C(CCCCCC)C1=CC=C(C(=O)O)C=C1 | C14H20O2
reactant | oxalyl chloride | 45 mmol, 4.0 mL, 1.5 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 1.3 mmol, 0.1 mL | CN(C)C=O | C3H7NO
reactant | tributyltin hydride | 34 mmol, 11.1 mL | C(CCC)[SnH](CCCC)CCCC
reactant | potassium fluoride | 100 mL | [F-].[K+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.31 mmol, 350 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Heptylbenzaldehyde | 97% yield | C(CCCCCC)C1=CC=C(C=O)C=C1 | C14H20O
